US08242124B2
To 6-benzyl-5,6,7,8-tetrahydro-2,6-naphthyridin-1(2H)-one (2.56 g, 10.65 mmol) was added POCl3 (20 mL, 215 mmol). The mixture was heated to 100° C. for 17 h and cooled to rt. The excess POCl3 was removed under reduced pressure, and the residue quenched with sat. NaHCO3 (150 mL) and partitioned with dichloromethane (100 mL) and stirred for 30 minutes. The dichloromethane layer was collected, and the aqueous layer was extracted with dichloromethane (2×100). The combined organic layers were dried with Na2SO4. The drying agent was removed by filtration, and the organic solution was concentrated under reduced pressure. The residue was purified by BIOTAGE® flash chromatography using a 5-30% EtOAc in hexanes gradient. The fractions containing the expected product were combined and concentrated under reduced pressure to give 2-benzyl-5-chloro-1,2,3,4-tetrahydro-2,6-naphthyridine (2.334 g, 9.02 mmol, 85% yield) as a yellow oil. LC/MS: m/z 259.01 (M+H)+, 0.775 min (method 2). 1H NMR (500 MHz, chloroform-d) δ ppm 8.10 (d, J=4.88 Hz, 1H) 7.26-7.41 (m, 5H) 6.86 (d, J=4.88 Hz, 1H) 3.69 (s, 2H) 3.58 (s, 2H) 2.84-2.89 (m, 2H) 2.78-2.83 (m, 2H).

reactant | 6-benzyl-5,6,7,8-tetrahydro-2,6-naphthyridin-1(2H)-one | 10.65 mmol, 2.56 g | C(C1=CC=CC=C1)N1CC=2C=CNC(C2CC1)=O | C15H16N2O
reactant | POCl3 | 215 mmol, 20 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 2-benzyl-5-chloro-1,2,3,4-tetrahydro-2,6-naphthyridine | 9.02 mmol, 2.334 g, 85% yield | C(C1=CC=CC=C1)N1CC2=CC=NC(=C2CC1)Cl | C15H15ClN2
